** sch_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_cell_2.sch
.subckt PFD_cell_2 gnd vp cRef UP DOWN cVco rst
*.PININFO gnd:B vp:B cRef:I cVco:I rst:I UP:O DOWN:O
x9 rst reset_n vp gnd inverter_x4
MM4 DOWN rst gnd gnd sg13_lv_nmos w=0.45u l=0.15u ng=1
MM5 UP rst gnd gnd sg13_lv_nmos w=0.45u l=0.15u ng=1
x4 net2 DOWN vp gnd inverter_x4
x6 net1 UP vp gnd inverter_x4
x2 pre_down net2 vp gnd inverter_x4
x5 pre_up net1 vp gnd inverter_x4
x1 rst vp flip_flop_reset vp gnd reset_n PFD_passgate
x3 reset_n vp flip_flop_reset net3 gnd rst PFD_passgate
x7 vp gnd pre_down post_nand pre_up NAND_2in
* noconn #net5
x8 gnd vp net3 net4 PFD_buffor
x10 post_nand net4 vp gnd inverter_x4
x11 cRef flip_flop_reset vp pre_down net5 vp gnd PFD_flip_flop
x12 cVco flip_flop_reset vp pre_up net6 vp gnd PFD_flip_flop
* noconn #net6
.ends

* expanding   symbol:  /foss/designs/CHIP-PLL/schematics/divider/schematics/inverter_x4.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/inverter_x4.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/inverter_x4.sch
.subckt inverter_x4 IN OUT VP GND
*.PININFO IN:I VP:B OUT:O GND:B
MM1 OUT IN GND GND sg13_lv_nmos w=0.60u l=0.13u ng=1
MM2 OUT IN VP VP sg13_lv_pmos w=0.60u l=0.13u ng=1
.ends


* expanding   symbol:  PFD_passgate.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_passgate.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_passgate.sch
.subckt PFD_passgate in_n vp A B gnd in_p
*.PININFO in_n:I in_p:I vp:B gnd:B B:B A:B
MM4 B in_p A vp sg13_lv_pmos w=0.3u l=0.15u ng=1
MM5 B in_n A gnd sg13_lv_nmos w=0.3u l=0.15u ng=1
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_2in.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_2in.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_2in.sch
.subckt NAND_2in VP GND a y b
*.PININFO y:O GND:B a:I VP:B b:I
MM1 y a net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM3 net1 b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM2 y b VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
MM4 y a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  PFD_buffor.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_buffor.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_buffor.sch
.subckt PFD_buffor gnd vp out in
*.PININFO gnd:B vp:B in:I out:B
MM1 out_stage1 in gnd gnd sg13_lv_nmos w=0.4u l=0.5u ng=1
MM4 out_stage1 in vp vp sg13_lv_pmos w=0.4u l=0.5u ng=1
MM2 out out_stage1 gnd gnd sg13_lv_nmos w=0.4u l=0.5u ng=1
MM3 out out_stage1 vp vp sg13_lv_pmos w=0.4u l=0.5u ng=1
.ends


* expanding   symbol:  PFD_flip_flop.sym # of pins=7
** sym_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_flip_flop.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_flip_flop.sch
.subckt PFD_flip_flop clk rst D Q NQ vp gd
*.PININFO D:I Q:O NQ:O clk:I rst:I gd:I vp:I
x8 clk vp post_NOR 1 gd clk_n PFD_passgate
x4 clk vp 2 3 gd clk_n PFD_passgate
x7 clk_n vp NQ 3 gd clk PFD_passgate
x3 vp rst 3 Q gd PFD_NOR
x5 vp rst 2 post_NOR gd PFD_NOR
x2 clk clk_n vp gd inverter_x4
x6 Q NQ vp gd inverter_x8
x9 1 2 vp gd inverter_x8
x1 clk_n vp D 1 gd clk PFD_passgate
MM1 gd 1 gd gd sg13_lv_nmos w=5u l=5u ng=1
MM2 gd 3 gd gd sg13_lv_nmos w=5u l=5u ng=1
MM3 gd 2 gd gd sg13_lv_nmos w=5u l=5u ng=1
.ends


* expanding   symbol:  PFD_NOR.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_NOR.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_NOR.sch
.subckt PFD_NOR vp A B Out gd
*.PININFO vp:I gd:I B:I A:I Out:O
MM1 Out A net1 vp sg13_lv_pmos w=0.3u l=0.15u ng=1
MM4 net1 B vp vp sg13_lv_pmos w=0.3u l=0.15u ng=1
MM2 Out A gd gd sg13_lv_nmos w=0.3u l=0.15u ng=1
MM3 Out B gd gd sg13_lv_nmos w=0.3u l=0.15u ng=1
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/schematics/divider/schematics/inverter_x8.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/inverter_x8.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/inverter_x8.sch
.subckt inverter_x8 IN OUT VP GND
*.PININFO IN:I VP:B OUT:O GND:B
MM1 OUT IN GND GND sg13_lv_nmos w=1.20u l=0.13u ng=1
MM2 OUT IN VP VP sg13_lv_pmos w=1.20u l=0.13u ng=1
.ends

